US04318847
1-(1) Synthesis of Z-D-Leu
Benzyloxycarbonyl chloride (abbreviated Z-Cl hereafter) (65 ml) and 114 ml of 4 N NaOH were simultaneously added under agitation with ice-cooling to a solution of 50 g of D-Leu in 191 ml of 2 N NaOH and stirred for a further one hour. After the reaction mixture was diluted with one liter of distilled water, it was rinsed three times with 300 ml each of ethyl acetate. The aqueous layer was adjusted to pH 2.0 with 4 N HCl under cooling with ice. The oily material formed was extracted with ethyl acetate. The ethyl acetate extract, after being washed with a saturated solution of sodium chloride, was dehydrated over anhydrous sodium sulfate and then evaporated under reduced pressure to give 44 g of colorless, transparent syrup.

reactant | Benzyloxycarbonyl chloride | 65 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | D-Leu | 50 g | N[C@H](CC(C)C)C(=O)O | C6H13NO2
solvent | NaOH | 2 N, 191 ml | [OH-].[Na+]
solvent | water | one liter | O | H2O
solvent | NaOH | 4 N, 114 ml | [OH-].[Na+]
product | Z-D-Leu | N([C@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
